US04030925
8. 1,3-Bis[4-(2-formylhydrazino)phenyl]thiourea (NA-1)
Sodium carbonate (2.1 g, 0.02 mole) was dissolved in water (100 ml). Bis(carboxymethyl)trithiocarbonate (4.5 g, 0.02 mole) was added portionwise with vigorous stirring. The pH of the reaction mixture was adjusted to 9.5 by the addition of sodium carbonate. The mixture was then heated to approximately 95° C. 1-Formyl-2-(4-aminophenyl)hydrazine (6.5 g, 0.043 mole) was added in one portion to the reaction mixture. Stirring was continued for five minutes. The reaction mixture was chilled, the solid was filtered off, washed thoroughly with water and dried. Yield 4.5 g (66%), m.p. 212°-214° C.

reactant | Sodium carbonate | 0.02 mole, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Bis(carboxymethyl)trithiocarbonate | 0.02 mole, 4.5 g | C(=O)(O)CSC(SCC(=O)O)=S | C5H6O4S3
reactant | 1-Formyl-2-(4-aminophenyl)hydrazine | 0.043 mole, 6.5 g | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
solvent | water | 100 ml | O | H2O
product | 1,3-Bis[4-(2-formylhydrazino)phenyl]thiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)NC1=CC=C(C=C1)NNC=O | C15H16N6O2S
